US04493843
A mixture containing 2-(n-undecyl)indole-4-carboxylic acid (25.8 g), palladium on charcoal (5% w/w, 5.2 g), 72% w/v aqueous perchloric acid (26 ml) and glacial acetic acid (200 ml) was heated by external application of steam while being shaken under an atmosphere of hydrogen. When the required hydrogen had been taken up, the hot mixture was filtered through diatomaceous earth, the residue was washed with fresh hot glacial acetic acid (200 ml), and the combined filtrates were concentrated in vacuo to about 75 ml. The residue was poured onto crushed ice and water, and 50% w/v aqueous sodium hydroxide was added to pH 12. Acetic acid was added to pH B 4-5 and the product was collected by filtration and washed with water. Recrystallisation from methanol yielded (RS)-2-(n-undecyl)indoline-4-carboxylic acid (19.1 g) in the form of a buff solid, m.p. 105°-108° C.

reactant | 2-(n-undecyl)indole-4-carboxylic acid | 25.8 g | C(CCCCCCCCCC)C=1NC=2C=CC=C(C2C1)C(=O)O | C20H29NO2
reactant | perchloric acid | 26 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 5.2 g | [Pd] | Pd
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | (RS)-2-(n-undecyl)indoline-4-carboxylic acid | 19.1 g | C(CCCCCCCCCC)C1NC=2C=CC=C(C2C1)C(=O)O | C20H31NO2
